US04060528
A mixture of 5.9 parts of sodium cyanide in 40 parts of dimethyl sulfoxide is heated to 60° C and there are added at once 11.3 parts of α-bromo-p-tolyl 2-thienyl ketone (exothermic reaction: temperature rises to 100° C). The whole is stirred for 2 hours at 60° C. After cooling, the reaction mixture is poured onto water and the product is extracted three times with 450 parts of chloroform. The combined extracts are washed twice with 200 parts of water, dried and evaporated. The dark-coloured residual tar is extracted several times with ether. The combined ether extracts are stirred with activated charcoal, filtered and evaporated. The residue is triturated in petroleumether (solid carbon dioxide) and the whole is evaporated, yielding 2-[p-(2-thenoyl)phenyl]acetonitrile as a residue.

reactant | sodium cyanide | [C-]#N.[Na+]
reactant | α-bromo-p-tolyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C1=CC=C(C=C1)CBr | C12H9BrOS
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 2-[p-(2-thenoyl)phenyl]acetonitrile | C1(=CC=CS1)C(=O)C1=CC=C(C=C1)CC#N | C13H9NOS
